US06953857B2
3-[2-(2,4-Dichloro-phenyl)-ethoxy]-terephthalamic acid methyl ester
To a solution of 100 mg 4-Cyano-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid methyl ester in 2 ml DMSO 93 mg K2CO3 and 68 μl H2O2 (35%) were added at RT. After stirring the reaction over night the mixture was taken up in 5 ml ethyl acetate and 3 ml water and filtered through a chem elut® cartridge by elution with ethyl acetate. After removal of the solvent the crude product was subjected to the subsequent reaction.

reactant | 4-Cyano-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid methyl ester | 100 mg | COC(C1=CC(=C(C=C1)C#N)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C17H13Cl2NO3
reactant | DMSO | 2 ml, 93 mg | CS(=O)C | C2H6OS
solvent | H2O2 | 68 μl | OO | H2O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-terephthalamic acid methyl ester | COC(C1=CC(=C(C(=O)N)C=C1)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C17H15Cl2NO4
